US07034039B2
To a suspension of methyl 6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinecarboxylate (2.01 g, 4.5 mmol) in methanol (30 ml) was added a solution of lithium hydroxide monohydrate (0.57 g, 13.5 mmol) in water (10 ml). The resulting mixture was refluxed under heating for 48 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystallized from ethyl acetate-n-hexane to give 6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinecarboxylic acid (1.71 g, 87.7%) as crystals.

reactant | methyl 6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinecarboxylate | 4.5 mmol, 2.01 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC)C=1SC=CC1 | C26H25NO4S
reactant | lithium hydroxide monohydrate | 13.5 mmol, 0.57 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinecarboxylic acid | 1.71 g, 87.7% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)O)C=1SC=CC1 | C25H23NO4S
